US07662830B2
1. 4-[2-Chloro-6-(4-fluoro-phenyl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester
Heat a mixture of 2,4-dichloro-6-(4-fluoro-phenyl)-pyrimidine (2.8 g, 11.52 mmol), 3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester (2.42 g, 12.1 mmol), and K2CO3 (3.2 g, 23.0 mmol) in DMA at 60° C. for 16 h. Dilute with water, extract with EtOAc, and wash with brine. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify the residue by flash column eluting with EtOAc-Hexanes (1:4) to afford the title compound as a white solid.

reactant | 2,4-dichloro-6-(4-fluoro-phenyl)-pyrimidine | 11.52 mmol, 2.8 g | ClC1=NC(=CC(=N1)Cl)C1=CC=C(C=C1)F | C10H5Cl2FN2
reactant | 3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester | 12.1 mmol, 2.42 g | C(C)(C)(C)OC(=O)N1C[C@H](NCC1)C | C10H20N2O2
reactant | K2CO3 | 23.0 mmol, 3.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 4-[2-Chloro-6-(4-fluoro-phenyl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)Cl)C | C20H24ClFN4O2
